* F:\Projects\software-smps\ltspice\gate_driver\gate_driver.asc
Q1 N001 N004 N005 0 2N3904
Q2 0 N004 N005 0 2N3906
M1 N003 N002 N001 N001 FQB11P06
R1 N003 0 100
R2 N002 N005 1
R3 N001 N004 309
R4 N004 P001 309
R7 N007 N006 50
V1 N001 0 24
V2 N006 0 PULSE(0 3.3 0 1n 1n 500n 1u)
M2 P001 N007 0 0 AON6242
R5 N002 0 47k
.model NPN NPN
.model PNP PNP
.lib C:\Users\nikomo\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\nikomo\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 25u 0 100n
.backanno
.end
